US05463030
DTPA (78.6 g.) was heated to about 70° C. with a mixture of acetic anhydride (75.6 ml) and anhydrous pyridine (102.2 ml) for 18 hours and 65.9 g. of diethylenetriamine pentaacetic acid dianhydride ("DTPADA") was obtained. DTPADA (64.3 g.) was then heated with an excess of 2,6-dimethylaniline (50.2 g) in anhydrous pryridine (1200 ml) and refluxed at a temperature of about 115° C. for 2 hours. The reaction mixture was then cooled and added to 1500 ml of ethyl acetate. The resulting mixture was chilled for about 16 hours to a temperature of about 4° C. The precipitate was collected, washed with ethyl acetate and dried under vacuum at 97° C. and 0.5 mm for about 16 hours. About 59.8 g of N,N"-bis (2,6-dimethylcarbaniloylmethylene) diethylenetriamine triacetic acid ("DTPA-bis 2,6-dimethylaniline") was obtained as the monohydrate. The melting point was determined to be 195°-199° C. and elemental analysis determined for C30H43N5O9 was 58.4% C, 6.76% H, and 11.22% N.

reactant | DTPA | 78.6 g | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | C14H23N3O10
reactant | acetic anhydride | 75.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 102.2 ml | N1=CC=CC=C1 | C5H5N
product | diethylenetriamine pentaacetic acid dianhydride | C1C(=O)OC(=O)CN1CC[NH+](CCN2CC(=O)OC(=O)C2)CC(=O)[O-] | C14H19N3O8
